US05668291
2,2'-Dithiobis[N-(5-bromo-2-pyrimidinyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 2-amino-5-bromopyrimidine (2.03 g, 11.7 mmol) in 16 mL of pyridine. The crude product was triturated with a hot mixture of ethyl acetate and ethanol, filtered, and recrystallized first from DMF, then from acetonitrile-DMF to yield 0.40 g of the title compound, mp 249°-253° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 2-amino-5-bromopyrimidine | 11.7 mmol, 2.03 g | NC1=NC=C(C=N1)Br | C4H4BrN3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(5-bromo-2-pyrimidinyl)benzamide] | 0.40 g | BrC=1C=NC(=NC1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=NC=C(C=N2)Br)C=CC=C1)=O | C22H14Br2N6O2S2
